US03963783
b. 4-Methyl-3,5-hexadienyl triphenylphosphonium iodide
A mixture of 89.0 g. (0.40 mole) of iodo-4-methyl-3,5-hexadiene, 150 g. (0.40 mole) of triphenylphosphine and 350 ml. of benzene was stirred and refluxed for 8 hours. The solvent was removed in vacuo. After addition of about 1 l. of ether the oily mixture was left for one day at 0°. The crystallized salt was suction filtered, finely grinded and washed with ether, then dried for 4 hours at 80°/0.01 Torr. Obtained: 140 g. of phosphonium iodide, m.p. 124°-128°.

reactant | iodo-4-methyl-3,5-hexadiene | 0.40 mole | ICCC=C(C=C)C | C7H11I
reactant | triphenylphosphine | 0.40 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phosphonium iodide | [I-].[PH4+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Methyl-3,5-hexadienyl triphenylphosphonium iodide | [I-].CC(=CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C | InChI=1S/C25H26P.HI/c1-3-22(2)14-13-21-26(23-15-7-4-8-16-23,24-17-9-5-10-18-24)25-19-11-6-12-20-25;/h3-12,14-20H,1,13,21H2,2H3;1H/q+1;/p-1
